US08865698B2
To a methanol (1 mL) solution of (R)-3-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-1,1-dimethylurea (8.5 mg, 0.022 mmol) was added HCl as a solution is dioxane (30 μL). After 30 minutes, the reaction was concentrated to provide (R)-3-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-1,1-dimethylurea hydrochloride (6.7 mg, 0.016 mmol, 72% yield) as a yellow solid.

reactant | methanol | 1 mL | CO | CH4O
reactant | (R)-3-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-1,1-dimethylurea | 0.022 mmol, 8.5 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(N(C)C)=O | C19H20F2N6O
reactant | HCl | Cl | ClH
solvent | dioxane | 30 μL | O1CCOCC1 | C4H8O2
product | (R)-3-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-1,1-dimethylurea hydrochloride | 0.016 mmol, 6.7 mg, 72% yield | Cl.FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(N(C)C)=O | InChI=1S/C19H20F2N6O.ClH/c1-25(2)19(28)23-15-11-22-27-9-7-17(24-18(15)27)26-8-3-4-16(26)13-10-12(20)5-6-14(13)21;/h5-7,9-11,16H,3-4,8H2,1-2H3,(H,23,28);1H/t16-;/m1./s1
